US07199143B2
(5R)-3-[4-(1,1-Dioxo-3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-[4-((E)-2-bromoethenyl)-1,2,3-triazol-1-ylmethyl]oxazolidin-2-one
(5R)-3-[4-(1,1-Dioxo-3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-[4-(2,2-dibromoethenyl)-1,2,3-triazol-1-ylmethyl]oxazolidin-2-one (0.4 g, 0.69 mmol) was dissolved/supended in ethanol (2 ml) and diethylphosphite (0.36 ml, 2.79 mmol). Triethylamine (0.195 ml, 1.39 mmol) was added and the reaction mixture heated under vigorous stirring at 90° C. for 5 hours. It was cooled to room temperature, diluted with dichloromethane, washed with phosphate buffer (pH 7) and dried over sodium sulfate. Chromatography on silica gel with dichloromethane/DMF (50:1 to 40:1) gave 151 mg (44%) of the title compound as a colourless solid.

reactant | (5R)-3-[4-(1,1-Dioxo-3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-[4-(2,2-dibromoethenyl)-1,2,3-triazol-1-ylmethyl]oxazolidin-2-one | 0.69 mmol, 0.4 g | O=S1(CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)C=C(Br)Br)=O)F)=O | C19H17Br2FN4O4S
reactant | diethylphosphite | 2.79 mmol, 0.36 ml | C(C)OP(OCC)[O-]
reactant | Triethylamine | 1.39 mmol, 0.195 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (5R)-3-[4-(1,1-Dioxo-3,6-dihydro-2H-thiopyran-4-yl)-3-fluorophenyl]-5-[4-((E)-2-bromoethenyl)-1,2,3-triazol-1-ylmethyl]oxazolidin-2-one | 151 mg, 44% | O=S1(CCC(=CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC(=C1)\C=C\Br)=O)F)=O | C19H18BrFN4O4S
